US08304434B2
Step 2: 2-(cyclopropylsulfonyl)-6-(trifluoromethyl)nicotinic acid
To a 100 ml round bottom flask was loaded magnesium bromide cyclopropanesulfinate (928 mg, 4.43 mmol), 2-chloro-6-(trifluoromethyl)nicotinic acid (250 mg, 1.11 mmol), CuI (844 mg, 4.43 mmol), NaOH (44.3 mg, 1.11 mmol), 20 ml dimethyl sulfoxide and 4 ml water. The resulting reaction mixture was flushed with nitrogen gas and heated at 120° C. for 18 hr. After cooling down to room temperature, the reaction mixture was diluted with 60 ml ethyl acetate and 60 ml water. It was filtered through a pad of celite, which was then rinsed with 20 ml ethyl acetate. The layers were separated from filtrates, and the organics were dried over sodium sulfate, filtered and concentrated. The residue was purified on reverse phase column eluted with water/acetonitrile gradient solvent to give desired product was white solid (152 mg, 0.52 mmol).

reactant | magnesium bromide cyclopropanesulfinate | 4.43 mmol, 928 mg | C1(CC1)S(=O)[O-].[Br-].[Mg+2]
reactant | 2-chloro-6-(trifluoromethyl)nicotinic acid | 1.11 mmol, 250 mg | ClC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C7H3ClF3NO2
reactant | NaOH | 1.11 mmol, 44.3 mg | [OH-].[Na+]
reactant | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
catalyst | CuI | 4.43 mmol, 844 mg | [Cu]I
solvent | water | 4 ml | O | H2O
product | 2-(cyclopropylsulfonyl)-6-(trifluoromethyl)nicotinic acid | C1(CC1)S(=O)(=O)C1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C10H8F3NO4S
